US04433152
A mixture of 1.0 g of 1-amidino-4-piperidinecarboxylic acid hydrochloride and 3.3 g of bis-(p-t-butylphenyl)sulfite was stirred at room temperature for 2.5 hours in a solution of 10 ml of dry dimethylformamide and 5 ml of dry pyridine. The solvent was removed under reduced pressure, and dry ether was added to the residue to give crystals. The crystals were washed with dry ether and then with ethyl acetate and recrystallized from methanol-ether to obtain 1.0 g (yield: 61.4%) of p-t-butylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 211° to 213° C.

reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 1.0 g | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | bis-(p-t-butylphenyl)sulfite | 3.3 g | C(C)(C)(C)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C(C)(C)C | C20H26O3S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | p-t-butylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 1.0 g, yield: 61.4% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)C(C)(C)C | InChI=1S/C17H25N3O2.ClH/c1-17(2,3)13-4-6-14(7-5-13)22-15(21)12-8-10-20(11-9-12)16(18)19;/h4-7,12H,8-11H2,1-3H3,(H3,18,19);1H
